US07488740B2
7. 6-Methoxymethyl-2,3,4-triamino-pyridine
6-Methoxymethyl-3-nitro-pyridine-2,4-diamine (455 mg, 2.29 mmol) is dissolved in EtOH (50 mL) and 10% Pd/C (50 mg) is added. The mixture is hydrogenated at 50 psi for 2 hours. The reaction mixture is filtered through Celite and the Celite bed washed with EtOH (25 mL). The solvent is removed under reduced pressure to yield the title compound as an off-white solid.

reactant | 6-Methoxymethyl-3-nitro-pyridine-2,4-diamine | 2.29 mmol, 455 mg | COCC1=CC(=C(C(=N1)N)[N+](=O)[O-])N | C7H10N4O3
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 6-Methoxymethyl-2,3,4-triamino-pyridine | COCC1=CC(=C(C(=N1)N)N)N | C7H12N4O
